US04671798
a. 3,4,4a,5,8,8a-Hexahydro-2,2,6,8-tetramethyl-1(2H)-naphthalenone
124 G (1M) of 6,6-dimethyl-cyclohex-2-en-1-one, 200 ml of toluene and 10 ml of trifluoro-boro-etherate are placed under nitrogen atmosphere in a three-necked reaction vessel of 1000 ml capacity equipped with a thermometer and a stirrer. The mixture was cooled to 10° and 2-methyl-penta-1,3-diene was added thereto in small portions over 4 hours. After the addition was over, the mixture was left under stirring for 1 additional hour, whereupon it was hydrolyzed with an aqueous sodium carbonate solution. The excess of toluene was removed by means of a rotary evaporator under reduced pressure and the residue was distilled to give 101.7 g of the desired product having b.p. 70°-80°/26.6 Pa. A spectroscopic analysis indicated that the product obtained consisted of about 90% of isomer cis (a) and about 10% of trans (b).

reactant | 6,6-dimethyl-cyclohex-2-en-1-one | 1M | CC1(CCC=CC1=O)C | C8H12O
reactant | 2-methyl-penta-1,3-diene | CC(=C)C=CC | C6H10
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4,4a,5,8,8a-Hexahydro-2,2,6,8-tetramethyl-1(2H)-naphthalenone | 101.7 g | CC1(C(C2C(C=C(CC2CC1)C)C)=O)C | C14H22O
